US08633313B2
Methyl magnesium bromide (2M in diethyl ether, 2.38 mL, and 4.76 mmol) was added dropwise to the solution of 2-(2-fluorophenyl)-1,5-naphthyridine-3-carbaldehyde (600 mg, 4.76 mmol) in THF (60 mL) at −0° C. After completion of reaction, the reaction mixture was quenched with saturated NH4Cl solution and ethyl acetate, and then filtered through Celite™. The organic layer was separated and the aqueous layer was back extracted with ethyl acetate. The organic layers were combined and dried over anhydrous Na2SO4 and concentrated under reduced pressure to give an oily mass. The oily mass was then purified by silica gel column chromatography using 30% of ethyl acetate and hexane as eluent to give 1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethanol as a yellow oil: 1H-NMR (CDCl3) δ: 1.3 (s, 3H), 5.0 (brs, 1H), 7.7-7.2 (m, 5H), 8.4 (d, 1H), 8.8 (s, 1H), 9.0 (s, 1H).

reactant | Methyl magnesium bromide | 4.76 mmol, 2M, 2.38 mL | C[Mg]Br
reactant | 2-(2-fluorophenyl)-1,5-naphthyridine-3-carbaldehyde | 4.76 mmol, 600 mg | FC1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C=O | C15H9FN2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethanol | FC1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)O | C16H13FN2O
